US09119868B2
Step 4: 2-(4-chlorophenyl)-5-cyclopropyl-6-(N-(3-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)methylsulfonamido)-N-methylbenzofuran-3-carboxamide
A mixture of 4-(N-(2-(4-chlorophenyl)-5-cyclopropyl-3-(methylcarbamoyl)benzofuran-6-yl)methylsulfonamido)-2-fluorophenyl trifluoromethanesulfonate (170 mg, 0.257 mmol), potassium acetate (76 mg, 0.772 mmol), bis(pinacolato)diboron (98 mg, 0.386 mmol) and PdCl2(dppf)-CH2Cl2 adduct (10.50 mg, 0.013 mmol) in 1,4-dioxane (2.0 ml) was heated at 80° C. in a seal tube under N2 overnight. The mixture was cooled to room temperature, diluted with EtOAc, and filtered through a pad of silica gel and Celite. The filtrate was concentrated to dryness to give the crude product as tan foam which was used without further purification. LCMS (m/z, ES+)=639 (M+H+).

reactant | 4-(N-(2-(4-chlorophenyl)-5-cyclopropyl-3-(methylcarbamoyl)benzofuran-6-yl)methylsulfonamido)-2-fluorophenyl trifluoromethanesulfonate | 0.257 mmol, 170 mg | FC(S(=O)(=O)OC1=C(C=C(C=C1)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)Cl)C(NC)=O)C=C1C1CC1)F)(F)F | C27H21ClF4N2O7S2
reactant | potassium acetate | 0.772 mmol, 76 mg | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 0.386 mmol, 98 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
solvent | 1,4-dioxane | 2.0 ml | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | PdCl2(dppf) CH2Cl2 | 0.013 mmol, 10.50 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | 2-(4-chlorophenyl)-5-cyclopropyl-6-(N-(3-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)methylsulfonamido)-N-methylbenzofuran-3-carboxamide | ClC1=CC=C(C=C1)C=1OC2=C(C1C(=O)NC)C=C(C(=C2)N(S(=O)(=O)C)C2=CC(=C(C=C2)B2OC(C(O2)(C)C)(C)C)F)C2CC2 | C32H33BClFN2O6S
